US06051712
In an analogous manner to that described in Example 5 (b)-(c), from methyl 1-(2-methoxy-ethoxymethoxy)-naphthalene-2-carboxylate by reduction by means of lithium aluminium hydride there was obtained [1-(2-methoxy-ethoxymethoxy)-naphthalen-2-yl]-methanol, which was then converted into 2-chloromethyl-1-(2-methoxy-ethoxymethoxy)-naphthalene; MS: 280 (M)+.

reactant | methyl 1-(2-methoxy-ethoxymethoxy)-naphthalene-2-carboxylate | COCCOCOC1=C(C=CC2=CC=CC=C12)C(=O)OC | C16H18O5
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | [1-(2-methoxy-ethoxymethoxy)-naphthalen-2-yl]-methanol | COCCOCOC1=C(C=CC2=CC=CC=C12)CO | C15H18O4
